US07642270B2
8-indan-5-yl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethylamide (Cpd 9)
To a solution of 8-indan-5-yl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester Cpd 1 (Example 1(g), 5 mg) in 1 mL of methanol was added 1 mL of ethylamine (2 M in methanol). The solution was stirred at 70° C. for 30 minutes. The solvent was evaporated and the product was purified by preparative HPLC as the formic acid salt (1 mg, yellow solid). 1H NMR (400 MHz, CDCl3) δ (ppm): 9.71 (m, 1H), 9.35 (s, 1H), 8.83 (s, 1H), 8.24 (br, 1H), 7.69 (br, 1H), 7.42 (d, 1H), 7.27 (m, 3H), 7.17 (d, 1H), 6.67 (br, 2H), 3.50 (m, 2H), 3.25 (m, 4H), 3.03 (m, 4H), 2.92 (m, 4H), 2.55 (s, 3H), 2.22 (m, 2H), 1.27 (t, 3H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C30H33N7O2: 524.27 (M+H), Found: 524.3.

reactant | 8-indan-5-yl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)N(C1)C=1C=C2CCCC2=CC1)=O | C30H32N6O3
reactant | ethylamine | 2 M, 1 mL | C(C)N | C2H7N
solvent | methanol | 1 mL | CO | CH4O
product | 8-indan-5-yl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethylamide | C(C)NC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)N(C1)C=1C=C2CCCC2=CC1)=O | C30H33N7O2
